US05545636
1-N(1-N-i-Propyl-piperidin-4-yl)-1H-indole
To a solution of 1-(piperidin-4-yl)-indole (0.5 g, 2.5 mmol) in dry DMF (3 m) was added anhydrous potassium carbonate (360 mg, 2.6 mmol). After stirring for 15 minutes at ambient temperature, i-propyl bromide (0.84 mL, 9 mmol) was added. The reaction mixture was refluxed for 2 days with stirring, quenched with water, extracted with ethyl acetate (2×), dried, and evaporated. The remaining residue was chromatographed on silica gel eluting with a toluene/acetone gradient (90:10 to 70:30). Evaporation of the eluting solvent gave the title compound as an oil. (220 mg, 36% yield).

reactant | 1-(piperidin-4-yl)-indole | 2.5 mmol, 0.5 g | N1CCC(CC1)N1C=CC2=CC=CC=C12 | C13H16N2
reactant | potassium carbonate | 2.6 mmol, 360 mg | C([O-])([O-])=O.[K+].[K+]
reactant | i-propyl bromide | 9 mmol, 0.84 mL | C(C)(C)Br | C3H7Br
solvent | DMF | CN(C)C=O | C3H7NO
product | 1-N(1-N-i-Propyl-piperidin-4-yl)-1H-indole | 36% yield | C(C)(C)N1CCC(CC1)N1C=CC2=CC=CC=C12 | C16H22N2
